US08217052B2
2-(4-Bromo-2-methyl-phenyl)-9-oxa-2-aza-spiro[5.5]undecan-1-one
To a clear solution of 4-[3-(4-bromo-2-methyl-phenylamino)-propyl]-tetrahydro-pyran-4-carboxylic acid methyl ester (0.85 g, 2.3 mmol) in THF (25 mL) was added NaH (60% in mineral oil, ˜100 mg) and the reaction temperature was raised to 50° C. (external) for 2 h. TLC (2.5% MeOH in DCM for SM, 5% MeOH in DCM for product) showed the reaction was complete. LC/MS detected the product peak. The reaction was cooled tin an ice-water bath, diluted with 25 mL of ethyl acetate, quenched with 10 mL of water. The two layers were separated. The aqueous layer was extracted with EtOAc (2×10 mL). The combined EtOAc extracts were washed with brine, and concentrated on rotavap to yield a crude product as a slightly yellow solid. This material was loaded onto a 25-g of silica gel column, eluted with DCM and 5% MeOH in DCM to get 0.81 g (95% yield) of the title compound as a white solid.

reactant | 4-[3-(4-bromo-2-methyl-phenylamino)-propyl]-tetrahydro-pyran-4-carboxylic acid methyl ester | 2.3 mmol, 0.85 g | COC(=O)C1(CCOCC1)CCCNC1=C(C=C(C=C1)Br)C | C17H24BrNO3
reactant | NaH | ˜100 mg | [H-].[Na+]
reactant | MeOH | CO | CH4O
reactant | tin | [Sn] | Sn
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 2-(4-Bromo-2-methyl-phenyl)-9-oxa-2-aza-spiro[5.5]undecan-1-one | 0.81 g, 95% yield | BrC1=CC(=C(C=C1)N1C(C2(CCC1)CCOCC2)=O)C | C16H20BrNO2
